US07658868B2
Preparation of 2,3-dibromothianthrene
To a solution of triethylamine (0.1 mL) in 10 mL DMF, 1,2-benzenedithiol (272 mg, 1 mmole) in 1 mL DMF and 1,2-difluoro-4,5-dibromobenzene (171 mg, 1.2 mmole) in 1 mL DMF was slowly added separately at the same time with continued stirring and under Ar. The reaction mixture was heated at 80° C. for over night. The solution was then turned dark yellow. The reaction mixture was cooled and poured into dichloromethane (50 mL). The organic layer was further washed with 1N HCl and water (twice), dried by MgSO4, and the solvent was removed in vacao. The crude product was further purified by column chromatography (hexane/dichloromethane 6/1) to yield white solids (217 mg, 58%). mp 160˜161° C. 1H NMR (300 MHz, CDCl3) δ: 7.67 (s, 2H), 7.40 (dd (AA′XX′), 2H, JAX=5.7 Hz and JAX′=3.3 Hz), 7.24 (dd (AA′XX′), 2H, JAX=3.3 Hz and JAX′=2.7 Hz). 13C NMR (75 MHz, CDCl3) δ: 136.4, 134.4, 132.3, 128.8, 128.0, 123.6. FT-IR (KBr)v/cm−1: 3059, 1451, 1429, 1304, 1106, 1056, 879, 826, 746, 662, 576, 473, 441. HR-MS (EI): calcd. for Cl2H6Br2S2 371.8272 [M+]. Found 371.8283.

reactant | triethylamine | 0.1 mL | C(C)N(CC)CC | C6H15N
reactant | 1,2-benzenedithiol | 1 mmole, 272 mg | C=1(C(=CC=CC1)S)S | C6H6S2
reactant | 1,2-difluoro-4,5-dibromobenzene | 1.2 mmole, 171 mg | FC1=C(C=C(C(=C1)Br)Br)F | C6H2Br2F2
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2,3-dibromothianthrene | 217 mg, 58% | BrC1=CC=2SC3=CC=CC=C3SC2C=C1Br | C12H6Br2S2
